US04297357
To a mixture of 6.8 g of 3-aminobenzamide, 5.5 g of methyl monochloroacetate and 10.0 g of calcium carbonate was added 30 ml of dimethylformamide and the mixture was stirred at 110° to 120° C. for 2 hours. The inorganic salt precipitated was filtered off and the filtrate was concentrated under reduced pressure. 50 ml of water was added to the resulting residue and the mixture was stirred to precipitate crystals. The crystals were collected by filtration, dried and recrystallized from a mixture of methanol and diethyl ether to obtain 5.7 g of N-(3-carbamoylphenyl)glycine methyl ester as colorless needles having a melting point of 146°-147° C.

reactant | 3-aminobenzamide | 6.8 g | NC=1C=C(C(=O)N)C=CC1 | C7H8N2O
reactant | methyl monochloroacetate | 5.5 g | ClCC(=O)OC | C3H5ClO2
reactant | calcium carbonate | 10.0 g | C([O-])([O-])=O.[Ca+2]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-(3-carbamoylphenyl)glycine methyl ester | 5.7 g | COC(CNC1=CC(=CC=C1)C(N)=O)=O | C10H12N2O3
